US04933355
5-(2-Tritylaminothiazol-4-ylmethylene)thiazolidine-2,4-dione
Following a procedure similar to that described in Example 17, the desired compound was prepared from 2 g of 2-tritylaminothiazole-4-carbaldehyde, 0.7 g of 2,4-thiazolidinedione, 1 g of piperidine and 20 ml of ethanol. The resulting product was a pale brown powder having the following physical properties.

reactant | 2-tritylaminothiazole-4-carbaldehyde | 2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C=O | C23H18N2OS
reactant | 2,4-thiazolidinedione | 0.7 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 1 g | N1CCCCC1 | C5H11N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-(2-Tritylaminothiazol-4-ylmethylene)thiazolidine-2,4-dione | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C=C1C(NC(S1)=O)=O | C26H19N3O2S2
